US07348359B2
A mixture of 1.08 mmol of 3,5-di-iso-propyl-2-(2,2,2-trifluoroethoxy)-phenylboronic acid, 1.62 mmol of 2-acetyl-4-iodo-benzo[b]thiophene and 62 mg (0.05 mmol) of Pd(PPh3)4, 1 mL of 2N aqueous sodium carbonate in 9 mL of toluene and 4 mL ethanol was heated to reflux. After complexion (TLC), water was added and the solution was extracted with ethyl acetate. The organic layer is dried over MgSO4 and after evaporation of the solvents, the crude oil was purified over a short silica plug (eluent: 10/90=ethyl acetate/hexane) to afford 2-acetyl-4-[2-(2,2,2-trifluoroethoxy)-3,5-di-iso-propylphenyl]-benzo[b]thiophene.

reactant | 3,5-di-iso-propyl-2-(2,2,2-trifluoroethoxy)-phenylboronic acid | 1.08 mmol | C(C)(C)C=1C(=C(C=C(C1)C(C)C)B(O)O)OCC(F)(F)F | C14H20BF3O3
reactant | 2-acetyl-4-iodo-benzo[b]thiophene | 1.62 mmol | C(C)(=O)C1=CC2=C(S1)C=CC=C2I | C10H7IOS
reactant | sodium carbonate | 2N, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.05 mmol, 62 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-acetyl-4-[2-(2,2,2-trifluoroethoxy)-3,5-di-iso-propylphenyl]-benzo[b]thiophene | C(C)(=O)C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC(F)(F)F | C24H25F3O2S
